US06518265B1
4-Amino-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline Hydrochloride
A mixture of 1.57 g of tert-butyl 4-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate and 40 ml of ethyl acetate solution of hydrogen chloride was stirred at room temperature for 5 hours. The reaction mixture was added with water, adjusted to pH 10 with 10% aqueous sodium hydroxide solution, and extracted with methylene chloride. The extract was dried, and the solvent was evaporated. The resulting residue was washed with ethyl acetate to give 1.01 g of pale brown crystals. The resulting crystals were purified by alumina column chromatography using methylene chloride—methanol (40:1 to 20:1) as eluting solvents, and washed with diisopropyl ether to give colorless crystals. Hydrochloride was prepared in a conventional method. Recrystallization from ethanol gave colorless crystals having the melting point of from 243 to 244° C. (decomposition).

reactant | tert-butyl 4-[2-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-1-piperidinecarboxylate | 1.57 g | NC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCN(CC2)C(=O)OC(C)(C)C | C22H29N5O2
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 4-Amino-1-[2-(4-piperidyl)ethyl]-1H-imidazo[4,5-c]quinoline Hydrochloride | 1.01 g | Cl.NC1=NC=2C=CC=CC2C2=C1N=CN2CCC2CCNCC2 | InChI=1S/C17H21N5.ClH/c18-17-15-16(13-3-1-2-4-14(13)21-17)22(11-20-15)10-7-12-5-8-19-9-6-12;/h1-4,11-12,19H,5-10H2,(H2,18,21);1H
